US04435390
1.0 g of 11β,21-dihydroxy-17-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione is reacted under the conditions of Example 5(c) with isobutyric anhydride, worked up, and purified, yielding 590 mg of 11β-hydroxy-21-isobutyryloxy-17-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione.

reactant | 11β,21-dihydroxy-17-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione | 1.0 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(COC)=O)C)=O)C | C25H34O7
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
product | 11β-hydroxy-21-isobutyryloxy-17-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione | 590 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(C(C)C)=O)=O)([C@]2(C1)C)OC(COC)=O)C)=O)C | C29H40O8
